US09315542B2
(S)-Benzyl 2-((S)-2-((tert-butoxycarbonyl)amino)-4-phenylbutanamido)-4-methylpentanoate (1)
Referring to FIG. 45, DIPEA (2 mL, 12 mmol, 2.7 eq) was added to a mixture of Boc-HoPhe-OH (1.25 g, 4.4 mmol, 1 eq). H-Leu-OBn.TsOH (1.75 g, 4.5 mmol, 1.0 eq) and HATU (2 g, 5 mmol, 1.1 eq) in CH2Cl2 (50 mL) and the mixture was stirred for four hours at RT. The mixture was poured into 0.5N aq. HCl and extracted twice with CH2Cl2. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (SiO2, 0-30% EtOAc in heptanes) and product (2.7 g, 100%) was isolated as a colorless oil.

reactant | DIPEA | 12 mmol, 2 mL, 2.7 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-HoPhe-OH | 4.4 mmol, 1.25 g, 1 eq | CC(C)(C)OC(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | H-Leu-OBn | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | TsOH | 4.5 mmol, 1.75 g, 1.0 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | HATU | 5 mmol, 2 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 0.5N | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-Benzyl 2-((S)-2-((tert-butoxycarbonyl)amino)-4-phenylbutanamido)-4-methylpentanoate | 2.7 g, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C)CCC1=CC=CC=C1 | C28H38N2O5
